US08871796B2
Pt/Vd (3%/0.6% wt/wt on carbon, 50 mg, 0.008 mmol, 0.005 equiv) was added to a stirring solution of 3-[1-ethyl-5-(4-fluoro-2-nitrophenoxy)-1H-pyrazol-3-yl]benzonitrile (0.54 g, 1.53 mmol, 1 equiv) in methanol (15.3 mL). A 3-way stop cock with a hydrogen balloon was installed and the reaction vessel was subjected to alternating vacuum and H2 gas (4×). The resulting mixture was stirred at 22° C. for 2 hours. The mixture was then subjected to alternating vacuum and nitrogen gas (4×) before the mixture was filtered through a nylon syringe filter and concentrated in vacuo to afford 3-[5-(2-amino-4-fluorophenoxy)-1-ethyl-1H-pyrazol-3-yl]benzonitrile. The crude reaction product was carried forward without further purification. Calcd (M+1)+: 323.1. Found: 323.0.

reactant | 3-[1-ethyl-5-(4-fluoro-2-nitrophenoxy)-1H-pyrazol-3-yl]benzonitrile | 1.53 mmol, 0.54 g, 1 equiv | C(C)N1N=C(C=C1OC1=C(C=C(C=C1)F)[N+](=O)[O-])C=1C=C(C#N)C=CC1 | C18H13FN4O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 15.3 mL | CO | CH4O
product | 3-[5-(2-amino-4-fluorophenoxy)-1-ethyl-1H-pyrazol-3-yl]benzonitrile | NC1=C(OC2=CC(=NN2CC)C=2C=C(C#N)C=CC2)C=CC(=C1)F | C18H15FN4O
